US04742057
A mixture of 3-(1-acetyl-4-piperidyl)-5-nitroindoline (10.0 g), manganese dioxide (17 g) and nitrobenzene (100 ml) was heated at 150° C. for 1 hour, with nitrogen gas being bubbled into the reaction mixture. The reaction mixture was cooled and the insoluble material was filtered off. The residue was washed with a mixture of chloroform and methanol (10:1 V/V) and the washings and the filtrate were combined and concentrated. The residue was dissolved in a mixture of chloroform and methanol (400 ml, 1:1 V/V) and the insoluble material was filtered off. The filtrate was concentrated to give 3-(1-acetyl-4-piperidyl)-5-nitroindole (4.67 g).

reactant | 3-(1-acetyl-4-piperidyl)-5-nitroindoline | 10.0 g | C(C)(=O)N1CCC(CC1)C1CNC2=CC=C(C=C12)[N+](=O)[O-] | C15H19N3O3
catalyst | manganese dioxide | 17 g | [O-2].[O-2].[Mn+4]
solvent | nitrobenzene | 100 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-(1-acetyl-4-piperidyl)-5-nitroindole | 4.67 g | C(C)(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C15H17N3O3
